US05232925
2-[N-Methyl-N-(2-thiazolyl)amino]ethanol
The title compound was prepared as an oil from 2-bromothiazole (15 g) and 2-methylaminoethanol (45 ml) by an analogous procedure to that described in Preparation 7

reactant | 2-bromothiazole | 15 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-methylaminoethanol | 45 ml | CNCCO | C3H9NO
product | 2-[N-Methyl-N-(2-thiazolyl)amino]ethanol | CN(C=1SC=CN1)CCO | C6H10N2OS
